US04238626
42 g of 4(4-chlorophenoxy)-phenol and 48 g of allyl bromide were heated at the boil at a reflux condenser, while stirring and adding 50 g of potassium carbonate, in 500 ml of butanol for 4 hours. Inorganic salts were then separated from the reaction solution by suction-filtration, the solvent was vaporized and the residue was distilled under greatly reduced pressure. 50 g of 4(4-chlorophenoxy)-phenyl allyl ether were obtained, boiling point: 173°-175° C. under a pressure of 2-3 mm mercury.

reactant | 4(4-chlorophenoxy)-phenol | 42 g | ClC1=CC=C(OC2=CC=C(C=C2)O)C=C1 | C12H9ClO2
reactant | allyl bromide | 48 g | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 50 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanol | 500 ml | C(CCC)O | C4H10O
product | 4(4-chlorophenoxy)-phenyl allyl ether | 50 g | C(C=C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C15H13ClO2
